* C:\GitHub\bms_hw_voltmod\ltspice\voltmod_main.asc
V1 N001 N002 4.5
V2 N002 N004 4.5
V3 N004 N006 4.5
V4 N006 N008 4.5
V5 N008 N010 4.5
V6 N010 N012 4.5
V7 N012 N014 4.5
V8 N014 0 4.5
XX1 N001 N002 N001 0 N003 voltmod_op
XX2 N008 N010 N001 0 N011 voltmod_op
XX3 N002 N004 N001 0 N005 voltmod_op
XX4 N004 N006 N001 0 N007 voltmod_op
XX5 N006 N008 N001 0 N009 voltmod_op
XX6 N010 N012 N001 0 N013 voltmod_op
XX7 N012 N014 N001 0 N015 voltmod_op
XX8 N014 0 N001 0 N016 voltmod_op

* block symbol definitions
.subckt voltmod_op IN+ IN- VSS VEE out
R4 N003 N004 100k
C1 N001 N004 470n
R5 out N003 146k
R1 N002 N001 100k
R2 N001 IN+ 100k
R3 N004 IN- 100k
C2 out N001 470n
R6 VEE N002 146k
XU2 N002 N003 VSS VEE out AD8548
.ends voltmod_op

.tran 100ms
.lib ADI.lib
.backanno
.end
